US04147700
To a mixture of hexamethylphosphoric triamide (12 ml) and chloroacetyl chloride (0.452 g), 2-aminomethyl-3-acetamido-4-bromo-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline dihydrobromide dihydrate (1.276 g) is added, and the resultant mixture is stirred at room temperature for 5 hours. The reaction mixture is mixed with ether and washed with aqueous sodium bicarbonate and water in order. The precipitate is dried to give 2-(2-chloroacetamidomethyl)-3-acetamido-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline (0.63 g). This product (0.6 g) is dissolved in acetic acid (6 ml) to give a solution, which is refluxed for 2 hours. The reaction mixture is evaporated under reduced pressure. The residue is extracted with ethyl acetate. The organic layer is washed with aqueous sodium bicarbonate and water in order, dried and evaporated to remove the ethyl acetate. The residue is chromatographed on a column of silica gel, which is eluted with methanol to give 2',5-dichloro-2-[3-(2-chloroacetamidomethyl)-5-methyl-4H-1,2,4-triazol-4 -yl]-benzophenone (0.15 g).

reactant | hexamethylphosphoric triamide | 12 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | chloroacetyl chloride | 0.452 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminomethyl-3-acetamido-4-bromo-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline dihydrobromide dihydrate | 1.276 g | O.O.Br.Br.NCC1=NC2=CC=C(C=C2C(N1NC(C)=O)(C1=C(C=CC=C1)Cl)Br)Cl
solvent | ether | CCOCC | C4H10O
product | 2-(2-chloroacetamidomethyl)-3-acetamido-4-hydroxy-4-(2-chlorophenyl)-6-chloro-3,4-dihydroquinazoline | 0.63 g | ClCC(=O)NCC1=NC2=CC=C(C=C2C(N1NC(C)=O)(C1=C(C=CC=C1)Cl)O)Cl | C19H17Cl3N4O3
